US03940390
With stirring and reflux cooling, 183 g (1 mole) of adipic acid chloride were added to a solution, kept at 120°C., of 168.6 g (1.1 moles) of cyclooctylisocyanate and 162 ml (2 moles) of pyridine in 500 ml of xylene. After 3 hours' reaction time, cooling was effected, followed by filtering off from the separated pyridine hydrochloride. The filtrate was first freed from solvent under reduced pressure and, finally, was distilled in a high vacuum. 158.2 g (60% of the theory) of 3-cyclooctyl-2,3,4,5,6,7-hexahydrocyclopenta[e]-1,3-oxazine-2,4-dione of the boiling point 172°-174°C/0.3 mm Hg were obtained when solidified to give a colorless crystal mass of the melting point 48°-51°C.

reactant | adipic acid chloride | 1 mole, 183 g | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | cyclooctylisocyanate | 1.1 moles, 168.6 g | C1(CCCCCCC1)N=C=O | C9H15NO
reactant | pyridine | 2 moles, 162 ml | N1=CC=CC=C1 | C5H5N
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-cyclooctyl-2,3,4,5,6,7-hexahydrocyclopenta[e]-1,3-oxazine-2,4-dione | C1(CCCCCCC1)N1C(OC2=C(C1=O)CCC2)=O | C15H21NO3
